US06897306B2
Preparation 72: 2-((1R)-1-{2-[(Benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-5-methyl-1,3-oxazole-4-carboxylic Acid
A solution of methyl 2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-5-methyl-1,3-oxazole-4-carboxylate (Preparation 71) (1.00 g, 2.26 mmol) in 1,4-dioxane (10 ml) was treated with an aqueous sodium hydroxide solution (1N, 1.5 ml) and stirred at room temperature for 4 hours. Further aqueous sodium hydroxide (1N, 3.0 ml) was added and the mixture was stirred for 20 hours. The solvent was removed under reduced pressure and the residue was dissolved in water and washed with ethyl acetate. The layers were separated and the aqueous layer was acidified with solid citric acid then extracted with ethyl acetate. The combined organic layers were dried over anhydrous magnesium sulphate, filtered and the solvent was removed under reduced pressure to afford the title compound as a white foam (0.83 g).

reactant | methyl 2-((1R)-1-{2-[(benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-5-methyl-1,3-oxazole-4-carboxylate | 2.26 mmol, 1.00 g | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC(=C(N1)C(=O)OC)C)=O | C25H34N2O5
reactant | sodium hydroxide | 1N, 1.5 ml | [OH-].[Na+]
reactant | sodium hydroxide | 1N, 3.0 ml | [OH-].[Na+]
solvent | 1,4-dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | 2-((1R)-1-{2-[(Benzyloxy)amino]-2-oxoethyl}-4-cyclohexylbutyl)-5-methyl-1,3-oxazole-4-carboxylic Acid | 0.83 g | C(C1=CC=CC=C1)ONC(C[C@@H](CCCC1CCCCC1)C=1OC(=C(N1)C(=O)O)C)=O | C24H32N2O5
